US04044129
A mixture of 0.25 g of 4-[4-bromo-2-(2-pyridinecarbonyl)phenyl]-3-chloromethyl-5-methyl-4H-1,2,4-triazole, 10 ml. of ethanol and 0.5 ml. of dimethylamine is refluxed for 1.5 hours. After evaporation of the solvent, the residue is diluted with water and extracted with chloroform. The chloroform extract is washed with water, dried over sodium sulfate, followed by evaporation of the solvent to give 4-[4-bromo-2-(2-pyridinecarbonyl)phenyl]-3-dimethylaminomethyl-5-methyl-4H-1,2,4-triazole as colorless crystals. Recrystallization from a mixture of acetone and n-hexane gives colorless prisms, melting at 127° to 128° C.

reactant | 4-[4-bromo-2-(2-pyridinecarbonyl)phenyl]-3-chloromethyl-5-methyl-4H-1,2,4-triazole | 0.25 g | BrC1=CC(=C(C=C1)N1C(=NN=C1C)CCl)C(=O)C1=NC=CC=C1 | C16H12BrClN4O
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-bromo-2-(2-pyridinecarbonyl)phenyl]-3-dimethylaminomethyl-5-methyl-4H-1,2,4-triazole | BrC1=CC(=C(C=C1)N1C(=NN=C1C)CN(C)C)C(=O)C1=NC=CC=C1 | C18H18BrN5O
